US05464788
2-Methoxy-4-(1-acetyl-4-piperidyloxy)benzoic acid (0.546 g, 1.86 mmol) in THF (10 ml) was stirred under nitrogen and treated with thionyl chloride (0.27 ml, 0.44 g, 3.7 mmol). The mixture was stirred at ambient temperature for 18 hours, then concentrated in vacuo to give 2-methoxy-4-(1-acetyl-4-piperidyloxy)benzoyl chloride.

reactant | 2-Methoxy-4-(1-acetyl-4-piperidyloxy)benzoic acid | 1.86 mmol, 0.546 g | COC1=C(C(=O)O)C=CC(=C1)OC1CCN(CC1)C(C)=O | C15H19NO5
reactant | thionyl chloride | 3.7 mmol, 0.27 ml, 0.44 g | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-methoxy-4-(1-acetyl-4-piperidyloxy)benzoyl chloride | COC1=C(C(=O)Cl)C=CC(=C1)OC1CCN(CC1)C(C)=O | C15H18ClNO4
